US04843079
10-amino-3,4-dihydro-7-fluoro-1H-thiopyrano [4,3-b]quinoline
A mixture of 4-fluoroanthranilonitrile (4.47 g) and freshly fused, pulverized ZnCl2 (6.7 g) in 20 ml of nitrobenzene was heated at 50° C. for 45 minutes. To the resulting suspension was added thiopyran-2one (5.1 g). This was heated at 130° C. for 3 hours. The resulting precipitate was filtered, rinsed with ether and partioned between 2-butanone and NH4OH solution. The aqueous layer was extracted with 2-butanone and the combined organics were washed with water and dried (MgSO4). This resulted in 4.8 g of a tan solid, m.p. 234°-237° C. d., which was recrystallized from ethyl acetate to give 3.0 g of a white powder, m.p. 235°-237° C. d.

reactant | 4-fluoroanthranilonitrile | 4.47 g | FC=1C=C(C(C#N)=CC1)N | C7H5FN2
reactant | thiopyran-2one | 5.1 g | S1C(C=CC=C1)=O | C5H4OS
solvent | nitrobenzene | 20 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | ZnCl2 | 6.7 g | [Cl-].[Cl-].[Zn+2]
product | 10-amino-3,4-dihydro-7-fluoro-1H-thiopyrano [4,3-b]quinoline | 4.8 g | NC1=C2C(=NC=3C=C(C=CC13)F)CCSC2 | C12H11FN2S
